US09284308B2
(4-Chloro-2-methoxy-3-(4-(trifluoromethyl)benzyl)quinolin-6-yl)(2,6-dimethylpyridin-3-yl)methanone
To a flask containing (4-chloro-2-methoxy-3-(4-(trifluoromethyl)benzyl)quinolin-6-yl)(2,6-dimethylpyridin-3-yl)methanol (1.51 g, 3.1 mmol, Intermediate 81: step a) was added 1,4-dioxane (50 mL) followed by activated manganese dioxide (1.31 g, 15.1 mmol) and the reaction mixture was heated to reflux. After 1 hour, the contents were filtered while still hot through a pad of Celite® and rinsed with THF. The resulting light yellow solution was concentrated and chromatographed on silica gel (10% acetone-hexane increasing to 25% acetone) to provide the title compound as a light yellowish amorphous solid.

reactant | (4-chloro-2-methoxy-3-(4-(trifluoromethyl)benzyl)quinolin-6-yl)(2,6-dimethylpyridin-3-yl)methanol | ClC1=C(C(=NC2=CC=C(C=C12)C(O)C=1C(=NC(=CC1)C)C)OC)CC1=CC=C(C=C1)C(F)(F)F | C26H22ClF3N2O2
catalyst | manganese dioxide | 15.1 mmol, 1.31 g | [O-2].[O-2].[Mn+4]
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | (4-Chloro-2-methoxy-3-(4-(trifluoromethyl)benzyl)quinolin-6-yl)(2,6-dimethylpyridin-3-yl)methanone | ClC1=C(C(=NC2=CC=C(C=C12)C(=O)C=1C(=NC(=CC1)C)C)OC)CC1=CC=C(C=C1)C(F)(F)F | C26H20ClF3N2O2
